US07517910B2
methyl 4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzoate
To a solution of 3,5-diphenyl-1H-pyrazole (0.36 g, 1.65 mmol) in N,N-dimethylformamide (8.6 mL) was added sodium hydride (60% in oil, 66 mg, 1.65 mmol) with stirring at room temperature, and the mixture was stirred at the same temperature for 30 min. A solution of methyl 4-(bromomethyl)-3-isopropoxybenzoate (0.43 g, 1.50 mmol) in N,N-dimethylformamide (4.3 mL) and sodium iodide (22 mg, 0.15 mmol) were added to the reaction mixture, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was diluted with ethyl acetate, and the mixture washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=4/1) to give the title compound (0.59 g, yield 92%) as a colorless oil. MS (ESI+): 427 (M+H).

reactant | 3,5-diphenyl-1H-pyrazole | 1.65 mmol, 0.36 g | C1(=CC=CC=C1)C1=NNC(=C1)C1=CC=CC=C1 | C15H12N2
reactant | sodium hydride | 1.65 mmol, 66 mg | [H-].[Na+]
reactant | methyl 4-(bromomethyl)-3-isopropoxybenzoate | 1.50 mmol, 0.43 g | BrCC1=C(C=C(C(=O)OC)C=C1)OC(C)C | C12H15BrO3
reactant | sodium iodide | 0.15 mmol, 22 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | 8.6 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4.3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzoate | 0.59 g, yield 92% | C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)CC1=C(C=C(C(=O)OC)C=C1)OC(C)C | C27H26N2O3
